US04914112
To triethyl orthoformate (10 ml) was added 3-amino-5-(1-(3-benzoylphenyl)ethyl)-1,2,4-oxadiazole (0.30 g, 1.02 mmol). After reflux for 4.5 h, the mixture was evaporated under reduced pressure to a residue, which was extracted with dichloromethane after saturated NaHCO3 aq. was added. The extracts were washed with water, evaporated under reduced pressure to a residue, which was chromatographed to afford 3-methylamino-5-(1-(3-(α-hydroxybenzyl)phenyl)ethyl)-1,2,4-oxadiazole (0.15 g, 48% yield) as oily substance: NMR(CDCl3)δ 1.63(d, 3H), 2.82(d, 4H), 4.18(q, 1H), 4.20(m, 1H), 5.73(d, 1H), 7.33-7.42(m, 9H) ppm: IR(neat) 3430, 3330, 3040, 1600, 1490, 1450, 1340, 1320, 1150 cm-1.

reactant | 3-amino-5-(1-(3-benzoylphenyl)ethyl)-1,2,4-oxadiazole | 1.02 mmol, 0.30 g | NC1=NOC(=N1)C(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C17H15N3O2
reactant | triethyl orthoformate | 10 ml | C(OCC)(OCC)OCC | C7H16O3
product | 3-methylamino-5-(1-(3-(α-hydroxybenzyl)phenyl)ethyl)-1,2,4-oxadiazole | 0.15 g, 48% yield | CNC1=NOC(=N1)C(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)O | C18H19N3O2
